US04163849
To a stirred suspension of 4.70 g (20.0 mmol) of 6-chloro-2-(1-piperazinyl)-pyrazine hydrochloride in 75 ml saturated aqueous sodium carbonate cooled in an ice bath is added 3 ml (33 mmol) of cyclopropanecarboxylic acid chloride. The mixture is stirred 45 minutes at ice bath temperature and then treated with 5 ml methylene chloride and warmed to room temperature during 30 minutes. Additional acid chloride (3 ml, 33 mmol) is added and stirring is continued 30 minutes longer. The mixture is diluted with water and extracted with chloroform to give 5 g crude 6-chloro-2-(4-cyclopropanecarbonyl-1-piperazinyl)-pyrazine which crystallizes, mp 69°-71° C. (100%).

reactant | 6-chloro-2-(1-piperazinyl)-pyrazine hydrochloride | 20.0 mmol, 4.70 g | Cl.ClC1=CN=CC(=N1)N1CCNCC1
reactant | cyclopropanecarboxylic acid chloride | 33 mmol, 3 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | sodium carbonate | 75 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 6-chloro-2-(4-cyclopropanecarbonyl-1-piperazinyl)-pyrazine | 5 g | ClC1=CN=CC(=N1)N1CCN(CC1)C(=O)C1CC1 | C12H15ClN4O
